US04978663
N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl][4-(4-fluorobenzoyl)]-1-piperidineacetamide
A mixture of N-[1-(1,6-dihydro-6-oxo-3-pyridinyl)cyclohexyl]chloroacetamide (1.74 g), 4-(4-fluorobenzoyl)piperidine hydrochloride (1.57 g) and diisopropylethylamine (1.67 g) was heated in 35 ml of refluxing acetonitrile for 1 hour. The resulting suspension was cooled to room temperature and the solid was collected, yielding 1.8 g of solid. Recrystallization from methanol gave 1.1 g of product as a solid, m.p. 243°-245° C. (dec).

reactant | N-[1-(1,6-dihydro-6-oxo-3-pyridinyl)cyclohexyl]chloroacetamide | 1.74 g | O=C1C=CC(=CN1)C1(CCCCC1)NC(CCl)=O | C13H17ClN2O2
reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 1.57 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | diisopropylethylamine | 1.67 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | N-[1-(1,6-Dihydro-6-oxo-3-pyridinyl)cyclohexyl][4-(4-fluorobenzoyl)]-1-piperidineacetamide | 1.8 g | O=C1C=CC(=CN1)C1(CCCCC1)NC(CN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C25H30FN3O3
